US08466282B2
Tert-butyl (3S,5R)-3-{{{7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (1.65 g), pyrrolidine (500 μl), HOBt (270 mg) and triethylamine (1.27 ml) were dissolved in DMF (50 ml), WSC.HCl (1.15 g) was added, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, diluted with saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (5:95)-ethyl acetate-ethyl acetate-methanol (9:1) was concentrated under reduced pressure to give the object product (170 mg).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 1.65 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C(=CC=C2)F)C(=O)O | C28H41FN4O6
reactant | pyrrolidine | 500 μl | N1CCCC1 | C4H9N
reactant | HOBt | 270 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 1.15 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.27 ml | C(C)N(CC)CC | C6H15N
product | Tert-butyl (3S,5R)-3-{{{7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(pyrrolidin-1-ylcarbonyl)piperidine-1-carboxylate | 170 mg | FC1=CC=CC2=C1N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCCC2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC | C32H48FN5O5
